US04831041
A solution of 2-nitro-3-(2-phthalimidomethylbenzyloxy)pyridine (2.71 g) and hydrazine hydrate (1.05 g) in ethanol (54 ml) was refluxed for 1.5 hours. After cooling, precipitates were filtered off, and the filtrate was evaporated under reduced pressure. The resultant residue was dissolved in diethyl ether and insoluble materials were filtered off. The solvent was evaporated under reduced pressure to give 3-(2-aminomethylbenzyloxy)-2-nitropyridine (1.75 g).

reactant | 2-nitro-3-(2-phthalimidomethylbenzyloxy)pyridine | 2.71 g | [N+](=O)([O-])C1=NC=CC=C1OCC1=C(C=CC=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C21H15N3O5
reactant | hydrazine hydrate | 1.05 g | O.NN
solvent | ethanol | 54 ml | C(C)O | C2H6O
product | 3-(2-aminomethylbenzyloxy)-2-nitropyridine | 1.75 g | NCC1=C(COC=2C(=NC=CC2)[N+](=O)[O-])C=CC=C1 | C13H13N3O3
